US05308857
A suspension of 2-(diaminomethyleneamino)-4-(5-guanidinocarbamoylfuran-2-yl-)thiazole sulfate (1.70 g) in concentrated ammonium hydroxide (17 ml) was refluxed with stirring. Additional ammonium hydroxide (8.5 ml) was added twice. After refluxing for 8 hours, water was added to the mixture and the resulting precipitate was collected by filtration, followed by recrystallization from aqueous N,N-dimethylformamide to afford 4-[5-(3-amino-1H-1,2,4-triazol-5-yl)furan-2-yl]-2-(diaminomethyleneamino)thiazole (0.73 g).

reactant | 2-(diaminomethyleneamino)-4-(5-guanidinocarbamoylfuran-2-yl-)thiazole sulfate | 1.70 g | S(=O)(=O)(O)O.NC(N)=NC=1SC=C(N1)C=1OC(=CC1)C(NNC(=N)N)=O
reactant | water | O | H2O
solvent | ammonium hydroxide | 17 ml | [OH-].[NH4+]
solvent | ammonium hydroxide | 8.5 ml | [OH-].[NH4+]
product | 4-[5-(3-amino-1H-1,2,4-triazol-5-yl)furan-2-yl]-2-(diaminomethyleneamino)thiazole | 0.73 g | NC1=NNC(=N1)C1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C10H10N8OS
